; ================================================================
; fetbias_sw_gate_research.net
; Gate bias subcell for GaAs pHEMT RF switch.
; Internal V_DC source + bias network (R, C).
; Single-port symbol (GATE output only).
;
; Topology (V_DC internal):
;      VGATE (V_DC internal)
;        |
;        + (positive, N_VDD internal node)
;        |
;   N_VDD --[RS]-- GATE
;    |
;   [CP]
;    |
;   GND
;
; Design variables (all parametric, overridable per instance):
;   Vgate = gate control voltage (default: 0V for on-state, -1.5V for off-state)
;   Rs = bias resistor (default: series FET sizing)
;   Cp = bypass capacitor
;
; Default values (series FET, UGW=160.0um):
;   Vgate = 0.0 V (on-state)
;   Rs = 1000.0 Ohm
;   Cp = 2272.73 fF
;
; Shunt FET override values (UGW=100.0um):
;   Vgate = -1.5 V (off-state)
;   Rs = 1040.2 Ohm
;   Cp = 2272.73 fF
; ================================================================

.SUBCKT FETBIAS_SW_GATE GATE 0

; -- Design variables ────────────────────────────────────────
; All parametric — set defaults, override per instance in parent
.VAR Vgate 0.0 V
.VAR Rs 1000.0 Ohm
.VAR Cp 2272.73 fF

; -- Ports -------------------------------------------------------
PORT:GATE   GATE

; -- Internal voltage source (replaces external VCTRL pin) ─
; V_DC source: positive at internal node N_VDD, negative at ground
; Voltage value set by Vgate design variable
V:VGATE  N_VDD  0  Vdc=Vgate

; -- Gate bias network (connects to V_DC+) ───────────────────
; Rs and Cp reference ADS design variables set on this cell.
; Connected to N_VDD (V_DC positive terminal).
R:RS   N_VDD   GATE   R=Rs
C:CP   N_VDD   0      C=Cp

.ENDS FETBIAS_SW_GATE
